US07863270B2
4-[2-(4-Hydrazino-6-(morpholin-4-yl)-pyrimidin-2-yloxy)-ethyl]-morpholine (80 mg; ¼ mmol) was added to a flask along with 5-methylisatin (53 mg; ⅓ mmol) and ethanol (4 mL). One drop of acetic acid was added, and the reaction was stirred overnight at 60° C. The mixture was then filtered and the precipitate was washed with ethanol (1 mL) and dried to give 5-methyl-3-{[6-morpholin-4-yl-2-(2-morpholin-4-yl-ethoxy)-pyrimidin-4-yl]-hydrazono)}-1,3-dihydro-indol-2-one.

reactant | 4-[2-(4-Hydrazino-6-(morpholin-4-yl)-pyrimidin-2-yloxy)-ethyl]-morpholine | ¼ mmol, 80 mg | N(N)C1=NC(=NC(=C1)N1CCOCC1)OCCN1CCOCC1 | C14H24N6O3
reactant | 5-methylisatin | ⅓ mmol, 53 mg | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
catalyst | acetic acid | One drop | C(C)(=O)O | C2H4O2
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 1,3-dihydro-indol-2-one | N1C(CC2=CC=CC=C12)=O | C8H7NO
